US07067540B2
A 1 L 3-necked round bottomed flask equipped with a nitrogen inlet, stirbar, addition funnel and thermocouple was charged with 3-amino-4-methoxy benzoic acid (50 g, 0.299 mol) and methanol (300 mL). The system was cooled to 0 C and acetyl choride (30 mL, 0.42 mol) was added dropwise. The system was warmed to room temperature, the addition funnel was replaced with a reflux condenser, and was heated to reflux for 1.5 h. The reaction mixture was cooled to room temperature, quenched with saturated aqueous NaHCO3, and extracted with ethyl acetate. The organic extract was washed with brine, dried with Na2SO4 and concentrated in vacuo to give methyl 3-amino-4-methoxybenzoate as a dark solid (47.9 g, 88%). 1H NMR (400 MHz, CD3OD) δ 7.40 (t, J=268 Hz, 1H), 7.37 (t, J=2.0 Hz, 1H), 6.86 (d, J=8.8 Hz, 1H), 3.98 (s, 3H), 3.81 (s, 3H) ppm. ES-HRMS m/z 182.0826 (M+H calcd for C9H12ClNO3 requires 182.0812). Step 2 Preparation of methyl 3-(4-hydroxy-6-methyl-2-oxopyridin-1(2H)-yl)-4-methoxybenzoate

reactant | 3-amino-4-methoxy benzoic acid | 0.299 mol, 50 g | NC=1C=C(C(=O)O)C=CC1OC | C8H9NO3
reactant | acetyl choride | 0.42 mol, 30 mL | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 300 mL | CO | CH4O
product | methyl 3-amino-4-methoxybenzoate | 47.9 g, 88% | NC=1C=C(C(=O)OC)C=CC1OC | C9H11NO3
